US03992440
The mixture of 1.5 g of 4-(4-acetamidophenylmercapto)-3-cinnamylamino-5-sulfamoylbenzoic acid and 15 ml of 2 N aqueous sodium hydroxide is refluxed for 80 minutes under nitrogen. After cooling it is washed with diethyl ether, acidified with glacial acetic acid to a pH of 4-5, the precipitate collected and recrystallized from 75% aqueous ethanol, to yield the 4-(4-aminophenylmercapto)-3-cinnamylamino-5-sulfamoylbenzoic acid of the formula ##SPC15##

reactant | 4-(4-acetamidophenylmercapto)-3-cinnamylamino-5-sulfamoylbenzoic acid | 1.5 g | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC=CC1=CC=CC=C1 | C24H23N3O5S2
reactant | sodium hydroxide | 2 N, 15 ml | [OH-].[Na+]
product | 4-(4-aminophenylmercapto)-3-cinnamylamino-5-sulfamoylbenzoic acid | NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC=CC1=CC=CC=C1 | C22H21N3O4S2
